US08012966B2
A stirred mixture of 2-[2-(2-ethylamino-ethylamino)-ethyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (40 mg, 1.498 mmol), lithium hydroxide monohydrate (503 mg, 11.985 mmol) in 25 ml of oxalic acid was heated to reflux at 135° C. The mixture was concentrated under reduced pressure, added with water (10 ml) and extracted with dichloromethane (20 ml×3). The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 5-(2-ethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-4-one (100 mg, 30.2%) as a brown oil.

reactant | 2-[2-(2-ethylamino-ethylamino)-ethyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1.498 mmol, 40 mg | C(C)OC(=O)C1=C(NC=C1C)CCNCCNCC | C14H25N3O2
reactant | lithium hydroxide monohydrate | 11.985 mmol, 503 mg | O.[OH-].[Li+]
solvent | oxalic acid | 25 ml | C(C(=O)O)(=O)O | C2H2O4
product | 5-(2-ethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-4-one | 100 mg, 30.2% | C(C)NCCN1C(C2=C(CC1)NC=C2C)=O | C12H19N3O
